US07855293B2
1-(4-acetoxybutyl)-4-methyl-pyridinium iodide (2g)
10 mmol (0.93 g) γ-picoline and 10 mmol (2.42 g) 4-iodobutylacetate are heated 4 h at 120° C. and after cooling repeatedly stirred with ether, decanted a finally dried in vacuum.

reactant | γ-picoline | 10 mmol, 0.93 g | N1=CC=C(C=C1)C | C6H7N
reactant | 4-iodobutylacetate | 10 mmol, 2.42 g | ICCCCOC(C)=O | C6H11IO2
solvent | ether | CCOCC | C4H10O
product | 1-(4-acetoxybutyl)-4-methyl-pyridinium iodide | [I-].C(C)(=O)OCCCC[N+]1=CC=C(C=C1)C | InChI=1S/C12H18NO2.HI/c1-11-5-8-13(9-6-11)7-3-4-10-15-12(2)14;/h5-6,8-9H,3-4,7,10H2,1-2H3;1H/q+1;/p-1
